US05260316
A solution of N-(3-phenylpropyl)-4-methoxybenzamide (5 g, 18.58 mmol) in dry THF (100 ml) is chilled to 5° in an ice/H2O bath. To this, n-butyllithium (1.6 m in hexanes, 59.46 mmol, 37 ml) is added slowly so that the temperature remains below 15°. After the addition is complete, the reaction is stirred for 5 minutes at 5°, followed by the addition of dimethylformamide (4.5 g, 61.31 mmol). After stirring for 1 hour at 10°, saturated NH4Cl solution (10 ml) is added, and the reaction is allowed to warm to room temperature. The reaction is poured into saturated NaCl solution (300 ml) and extracted into EtOAc (300 ml). The EtOAc phase is washed with 2N HCl (300 ml), H2O (300 ml) and saturated NaCl solution (300 ml) dried over MgSO4 and evaporated. The product is purified by chromatography (SiO2 ; 1:9 EtOAc/hexanes, 1:4 EtOAc/hexanes, 2:3 EtOAc/hexanes) yielding 2-(3-phenylpropyl)-5-methoxy-3-hydroxy-1-oxo-1,3-dihydrobenzo[c]pyrrole, as a white solid.

reactant | N-(3-phenylpropyl)-4-methoxybenzamide | 18.58 mmol, 5 g | C1(=CC=CC=C1)CCCNC(C1=CC=C(C=C1)OC)=O | C17H19NO2
reactant | n-butyllithium | 59.46 mmol, 37 ml | C(CCC)[Li]
reactant | dimethylformamide | 61.31 mmol, 4.5 g | CN(C=O)C | C3H7NO
reactant | NH4Cl | 10 ml | [NH4+].[Cl-]
reactant | NaCl | 300 ml | [Na+].[Cl-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(3-phenylpropyl)-5-methoxy-3-hydroxy-1-oxo-1,3-dihydrobenzo[c]pyrrole | C1(=CC=CC=C1)CCCN1C(C2=C(C1O)C=C(C=C2)OC)=O | C18H19NO3
